US05298657
N-(1-naphthyl)-N'-(3-iodophenyl)-N'-methyl guanidine HCl was prepared from 1-naphthyl cyanamide and N-methyl-3-iodo aniline.HCl by the method similar to the one described in Example 10.C.

reactant | 1-naphthyl cyanamide | C1(=CC=CC2=CC=CC=C12)NC#N | C11H8N2
reactant | N-methyl-3-iodo aniline | CNC1=CC(=CC=C1)I | C7H8IN
reactant | HCl | Cl | ClH
product | N-(1-naphthyl)-N'-(3-iodophenyl)-N'-methyl guanidine HCl | Cl.C1(=CC=CC2=CC=CC=C12)NC(=N)N(C)C1=CC(=CC=C1)I | InChI=1S/C18H16IN3.ClH/c1-22(15-9-5-8-14(19)12-15)18(20)21-17-11-4-7-13-6-2-3-10-16(13)17;/h2-12H,1H3,(H2,20,21);1H
